US04377580
A mixture of 1-methylquinazoline-2,4-dione (8.8 g), tri-n-propylamine (8.6 g) and phosphorus oxychloride (80 ml) was stirred for 1 hour at 110°-120° C. The resultant mixture was cooled to ambient temperature and concentrated under reduced pressure to give a residue, which was dissolved in 2% tri-n-propylamine-chloroform solution. The solution was added dropwise to a mixture of 2 N sodium hydroxide aqueous solution and ice at alkaline pH. The aqueous layer was separated and extracted twice with chloroform. The combined chloroform layer was washed with water and with aqueous solution saturated with sodium chloride, dried over anhydrous magnesium sulfate and concentrated under reduced pressure to give crystalline 4-chloro-1-methyl-1H-quinazoline-2-one.

reactant | 1-methylquinazoline-2,4-dione | 8.8 g | CN1C(NC(C2=CC=CC=C12)=O)=O | C9H8N2O2
reactant | tri-n-propylamine | 8.6 g | C(CC)N(CCC)CCC | C9H21N
reactant | phosphorus oxychloride | 80 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | sodium hydroxide | 2 N | [OH-].[Na+]
solvent | tri-n-propylamine chloroform | C(CC)N(CCC)CCC.C(Cl)(Cl)Cl
product | 4-chloro-1-methyl-1H-quinazoline-2-one | ClC1=NC(N(C2=CC=CC=C12)C)=O | C9H7ClN2O
